US20010027161A1
Triphenylcarbenium bis(tris(pentafluorophenyl)borane)cyanide ([Ph3C][((C6F5)3B)2CN])
Potassium bis(tris(pentafluorophenyl)borane)cyanide (827.5 mg, 0.7598 mmol) and chlorotriphenylmethane (211.8 mg, 0.7597 mmol) were placed in a 50 mL flask. The stirred solids were taken up in 10 mL of dichloromethane, added via syringe under argon counter-flow. An immediate reaction gave a deep yellow solution and a colorless solid. The solid was removed by filtration and washed (four times 4 mL) until all color was gone. The filtrate was reduced under vacuum to 4 mL, cooled to −78° C. and diluted with 10 mL of hexanes. The resulting suspension of brown oil was allowed to warm and stir. The oil solidified and then digested to a canary-yellow solid after stirring for 30 minutes. The yellow solid was isolated by filtration and dried under high vacuum. Yield, 935.3 mg, 95.20 percent.

reactant | Potassium bis(tris(pentafluorophenyl)borane)cyanide | 0.7598 mmol, 827.5 mg | [C-]#N.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.[K+]
reactant | chlorotriphenylmethane | 0.7597 mmol, 211.8 mg | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Triphenylcarbenium bis(tris(pentafluorophenyl)borane)cyanide | [C-]#N.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C1(=CC=CC=C1)[C+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H15.2C18BF15.CN/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;2*20-4-1(5(21)11(27)16(32)10(4)26)19(2-6(22)12(28)17(33)13(29)7(2)23)3-8(24)14(30)18(34)15(31)9(3)25;1-2/h1-15H;;;/q+1;;;-1
